US07465808B2
C. 5-{(S)-2-[5-(3,4-Dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-1-m-tolyl-ethyl}-1H-tetrazole
To a solution of 3-(5-{(S)-2-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-1-m-tolyl-ethyl}-tetrazol-1-yl)-propionitrile (1.5 g, 2.7 mmol) in dichloromethane (25 mL) was added DBU (2.9 mL, 18.9 mmol, 7.0 equiv), and the mixture was stirred at room temperature for 48 h. Dichloromethane (200 mL) was added, and the resulting mixture was washed with 1 N HCl (2×100 mL) then water (100 mL), dried (Na2SO4), and concentrated under reduced pressure. The crude residue was purified by flash chromatography (50% dichloromethane/ethyl acetate) to afford the title compound (1.3 grams, 95%). HPLC: Rt=5.31 (Method A). MS (ESI): mass calculated for C26H22Cl2N6O, 504.12; m/z found, 505.3 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.32 (d, J=8.2 Hz, 1H), 7.28-7.24 (m, 3H), 7.21 (t, J=7.7 Hz, 1H), 7.15 (d, J=8.8 Hz, 2H), 7.08 (d, J=7.7 Hz, 1H), 6.95-6.94 (m, 3H), 6.88 (dd, J=8.5, 2.2 Hz, 1H), 6.18 (s, 1H), 4.85 (dd, J=9.0, 3.6 Hz, 1H), 3.86 (s, 3H), 3.58 (dd, J=14.8, 8.5 Hz, 1H), 3.42 (dd, J=15.4, 3.6 Hz, 1H), 2.31 (s, 3H).

reactant | 3-(5-{(S)-2-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-1-m-tolyl-ethyl}-tetrazol-1-yl)-propionitrile | 2.7 mmol, 1.5 g | ClC=1C=C(C=CC1Cl)C1=CC(=NN1C1=CC=C(C=C1)OC)C[C@@H](C=1C=C(C=CC1)C)C1=NN=NN1CCC#N | C29H25Cl2N7O
reactant | DBU | 18.9 mmol, 2.9 mL, 7.0 equiv | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-{(S)-2-[5-(3,4-Dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-1-m-tolyl-ethyl}-1H-tetrazole | 1.3 grams, 95% | ClC=1C=C(C=CC1Cl)C1=CC(=NN1C1=CC=C(C=C1)OC)C[C@@H](C=1C=C(C=CC1)C)C1=NN=NN1 | C26H22Cl2N6O
